US07579469B2
To suspension of trimethylsulfoxonium iodide (0.22 g) in DMSO (0.5 mL) and THF (0.5 mL) stirred under nitrogen and cooled on ice was added sodium hexamethyldisilazide (1.0 mL, 1.0M in THF) dropwise over 5 minutes. After 15 minutes, a solution of 1,1,-difluoro-4-methyl-4-(2-methoxy-5-fluorophenyl)pentan-2-one (0.23 g) in THF (0.6 mL) was added dropwise and the mixture was allowed to come to room temperature over 2 hours. The mixture was diluted with hexane, washed with water, dried, filtered, and evaporated in vacuo to give 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-difluoromethyloxirane as an oil (0.25 g).

reactant | trimethylsulfoxonium iodide | 0.22 g | [I-].C[S+](=O)(C)C
reactant | sodium hexamethyldisilazide | 1.0M, 1.0 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 1,1,-difluoro-4-methyl-4-(2-methoxy-5-fluorophenyl)pentan-2-one | 0.23 g | FC(C(CC(C)(C1=C(C=CC(=C1)F)OC)C)=O)F | C13H15F3O2
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-difluoromethyloxirane | 0.25 g | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)F)(C)C)OC | C14H17F3O2
